US08067450B2
Step 2: Preparation of 4-[2-hydroxy-2-(2-methoxyphenyl)ethoxy]benzaldehyde
To a stirring solution of 2-(2-methoxyphenyl)oxirane (5.60 g, 37.3 mmol) in toluene (65 ml) was added 4-hydroxybenzaldehyde (6.80 g, 56.0 mmol), 1M NaOH (65 ml) and PEG4000 (polyethylene glycol, 0.85 g) and the stirring mixture was heated at 78° C. overnight. The reaction was allowed to cool to RT and it was then extracted with EtOAc (2×150 ml). The combined extracts were washed with brine, dried (Na2SO4), filtered and evaporated in vacuo. The resulting light oil was adsorbed onto silica gel and chromatographed eluting with 30-40% EtOAc/hexanes. There are 2 major spots. Fractions containing the higher Rf spot were combined and evaporated in vacuo to give 1.71 g (17%) the regioisomer as a brown oil. Fractions containing the lower Rf spot were combined and evaporated in vacuo to give 2.05 g (20%) of the title compound as a yellow solid.

reactant | 2-(2-methoxyphenyl)oxirane | 37.3 mmol, 5.60 g | COC1=C(C=CC=C1)C1OC1 | C9H10O2
reactant | 4-hydroxybenzaldehyde | 56.0 mmol, 6.80 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | NaOH | 1M, 65 ml | [OH-].[Na+]
solvent | toluene | 65 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[2-hydroxy-2-(2-methoxyphenyl)ethoxy]benzaldehyde | 2.05 g, 20% | OC(COC1=CC=C(C=O)C=C1)C1=C(C=CC=C1)OC | C16H16O4
